US08703768B2
Step 1: 4-Amino-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 2-methyl-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester (1.97 g, 9.89 mmol; prepared from 2-methyl-4-nitro-2H-pyrazole-3-carboxylic acid according to WO 2009/026241) in EtOH (20 ml) under argon atmosphere was added 10% Pd/C (200 mg). The black suspension was stirred at r.t. under a hydrogen atmosphere for 20 h. The catalyst was filtered off and washed with EtOH. The product was obtained upon evaporation as light brown oil (1.63 g, 97%) and used without further purification.

reactant | 2-methyl-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester | 9.89 mmol, 1.97 g | C(C)OC(=O)C=1N(N=CC1[N+](=O)[O-])C | C7H9N3O4
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-Amino-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.63 g, 97% | C(C)OC(=O)C=1N(N=CC1N)C | C7H11N3O2
